US08604034B2
Methyl 4-bromo-1H-pyrrole-2-carboxylate (250 mg, 1.23 mmol) and 2-bromo-1-(4-chloro-phenyl)-ethanone (315 mg, 1.35 mmol) were dissolved in DMF (50 mL). The reaction mixture was cooled to 0° C. before potassium tert-butoxide (125 mg, 1.11 mmol) was added to the reaction mixture in small portions. The resulting suspension was allowed to warm to room temperature then stirred for 10 min. The reaction mixture was diluted with water (100 mL) and extracted with CH2Cl2 (3×100 mL). The organic layers were combined, dried and concentrated in vacuo to give a residue that was purified using flash chromatography (Biotage SP4, 40 g cartridge, 0-15% EtOAc gradient in n-hexanes) to give the target compound methyl 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate (244 mg) contaminated with an impurity. The mixture was used in the next step without further purification.

reactant | Methyl 4-bromo-1H-pyrrole-2-carboxylate | 1.23 mmol, 250 mg | BrC=1C=C(NC1)C(=O)OC | C6H6BrNO2
reactant | 2-bromo-1-(4-chloro-phenyl)-ethanone | 1.35 mmol, 315 mg | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | potassium tert-butoxide | 1.11 mmol, 125 mg | CC(C)([O-])C.[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | methyl 4-bromo-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate | 244 mg | BrC=1C=C(N(C1)CC(=O)C1=CC=C(C=C1)Cl)C(=O)OC | C14H11BrClNO3
